US04048181
10.0 g (0.0578 mole) of 2-amino-6-bromopyridine was dissolved in 40 ml dry pyridine and 6.4 ml (0.067 mole) of ethyl chloroformate was added dropwise while the solution was stirred and cooled in an ice-bath to maintain the reaction temperature at 15°-18° C. After 4 hours at room temperature, the reaction mixture was poured into 150 ml of ice water and kept at 0° C overnight. Impure 2-ethoxycarbonylamino-6-bromopyridine was obtained by filtration and subsequently recrystallized from 2:1 methanol-water solution, giving an 88% yield of white solid, m.p.=70.2°-71.0° C.

reactant | 2-amino-6-bromopyridine | 0.0578 mole, 10.0 g | NC1=NC(=CC=C1)Br | C5H5BrN2
reactant | ethyl chloroformate | 0.067 mole, 6.4 ml | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 2-ethoxycarbonylamino-6-bromopyridine | C(C)OC(=O)NC1=NC(=CC=C1)Br | C8H9BrN2O2
